US06358942B1
Step 8: (S)-(−)-N-[[2-Oxo-3-[4-(4-piperidinyl)-3,5-difluorophenyl]-5-oxazolidinyl]methyl]acetamide
A mixture of (S)-(−)-4-[4-[5-[(acetylamino)methyl]-2-oxo-3-oxazolidinyl]-2,6-difluorophenyl]-1-piperidinecarboxylic acid phenylmethyl ester ((EXAMPLE 35, Step 7, 847 mg) and trifluoroacetic acid (12 mL) maintained at 0° C. under N2 is stirred for two hours and then concentrated under reduced pressure to remove excess trifluoroacetic acid. The residue is diluted with saturated aqueous potassium carbonate (70 mL) and methylene chloride (50 mL), and the layers are separated. The aqueous phase is extracted with methylene chloride (2×50 mL), and the combined organic phase is dried over anhydrous sodium sulfate, concentrated under reduced pressure, triturated with diethyl ether and recrystallized from ethyl acetate to give the title compound, NMR (CDCl3, 400 MHz) 7.08, 6.10, 4.78, 4.00, 3.74, 3.64, 3.19, 3.07, 2.72, 2.03, 1.99, 1.68δ.

reactant | (S)-(−)-4-[4-[5-[(acetylamino)methyl]-2-oxo-3-oxazolidinyl]-2,6-difluorophenyl]-1-piperidinecarboxylic acid phenylmethyl ester | C1(=CC=CC=C1)COC(=O)N1CCC(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CNC(C)=O)=O)F | C25H27F2N3O5
reactant | trifluoroacetic acid | 12 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-(−)-N-[[2-Oxo-3-[4-(4-piperidinyl)-3,5-difluorophenyl]-5-oxazolidinyl]methyl]acetamide | O=C1O[C@H](CN1C1=CC(=C(C(=C1)F)C1CCNCC1)F)CNC(C)=O | C17H21F2N3O3
